Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.91121131699
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.6589819943
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.920317477809999
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][O:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][O:7][H:8])=[C:9]([H:10])[H:11],-3.80494941873
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.68009972976
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.0931020778899998
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1],8.234688
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:7][C:8]([H:9])([H:10])[H:11],6.82135320554
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10],5.70336702261
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.93636957525
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.79933981397
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.8350113531
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.531812830340001
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[O:1],8.00518285261
[H:1][O:2][C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4][C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:6](\[H:5])[C:7]([H:8])([H:9])[H:10],2.14194870401
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],3.5669062510500003
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.69432368667
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-6.12919893628
[C:4](\[H:5])(=[C:6]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.38231642004
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8],1.89460069402
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7],2.37090729865
[H:1][O:2]/[C:3](=[C:4](/[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15],2.64312628771
[H:14].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.41116335747
[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],-2.54853092554
[C:3]#[C:7][H:8].[O:1][C:2]#[C:4][C:5]([H:6])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.57487067771
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1].[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],6.583765909419999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],5.53040409408
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],0.325144352551
